* source BATTERY_3_STATE_VOLTAGE_INPUT
V_V1         N00815 0 {Vocv}
R_R1         N00815 N00825  {R0} TC=0,0 
L_L1         N00825 N00755  {L0}  
V_V2         N00763 0  
+PULSE 3.475V 3.525V 0 1n 1n 900 1800
C_C1         N00755 N00763  {Csei}  TC=0,0 
R_R2         N00755 N00881  {Rsei} TC=0,0 
C_C2         N00881 N00763  {Cdl}  TC=0,0 
R_R3         N00881 N00763  {Rct} TC=0,0 
.PARAM  vocv=3.5v rsei=0.5m csei=50.5 cdl=94.8 r0=0.565m rct=2.22m l0=100n
