* source BATTERY_ALL_STATES_VBATT_INPUIT
R_R1         N01663 N01673  {R0} TC=0,0 
L_L1         N01673 N01599  {L0}  
V_V2         N01609 0  
+PULSE 3.475V 3.525V 0 1n 1n 900 1800
V_V1         N01663 0 {Vocv}
C_C2         N01715 N01609  {Cdl}  TC=0,0 
R_R3         N01715 N01875  {Rct} TC=0,0 
R_R2         N01599 N01715  {Rsei} TC=0,0 
C_C1         N01599 N01609  {Csei}  TC=0,0 
C_C3         N01875 N01609  {Cw}  TC=0,0 
.PARAM  vocv=3.5v rsei=0.5m cdl=94.8 csei=50.5 r0=0.565m cw=12.29k l0=100n
+  rct=2.22m
